US06432974B1
6-Hydrazino-3,4-dihydro-2H-isoquinolin-1-one
A solution of 6-fluoro-3,4-dihydro-2H-isoquinolin-1-one (3.6 g, 0.022 mole) and hydrazine (17.3 mL, 0.55 mole) was stirred at reflux in dioxane (150 mL) under nitrogen for 48 hours. The reaction mixture was concentrated under vacuo, water added (150 mL), and the product isolated by filtration. The product was thoroughly washed with diethyl ether to give the titled compound quantitatively as a white solid.

reactant | 6-fluoro-3,4-dihydro-2H-isoquinolin-1-one | 0.022 mole, 3.6 g | FC=1C=C2CCNC(C2=CC1)=O | C9H8FNO
reactant | hydrazine | 0.55 mole, 17.3 mL | NN | H4N2
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | 6-Hydrazino-3,4-dihydro-2H-isoquinolin-1-one | N(N)C=1C=C2CCNC(C2=CC1)=O | C9H11N3O
